US04518532
Synthesis of N-[4-(3-aminopropyl)aminobutyl]-2-(4-guanidinobutanamido)-2-hydroxyethanamide
A mixture of 360 mg (2 mmoles) of 4-guanidinobutanamide hydrochloride, 701 mg (2.4 mmole) of N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride, 264 mg (2 mmoles) of glutaric acid and 0.36 ml of water was heated at 60° C. for 24 hours. After completion of the reaction, 5 ml of water was added to the reaction mixture, then passed through a column (20 mm inner diameter) packed with 150 ml of CM-Sephadex® C-25 (Na-type), and fractionated by the gradient elution method with 1.5 liters of water and 1.5 liters of 0.8M aqueous sodium chloride solution (15 ml fraction size). The fractions No. 125 to No. 137 corresponding to the sodium chloride concentrations of 0.48-0.56M were combined, then concentrated, and extracted three times with 10 ml of methanol. The methanol layer was passed through a column (20 mm inner diameter) packed with 150 ml of Sephadex® LH-20, and developed with methanol (7 ml fraction size). The fractions No. 9 to No. 15 were combined and evaporated to dryness, yielding 318 mg (35% yield) of a white powder of N-[4-(3-aminopropyl)aminobutyl]-2-(4-guanidinobutanamido)-2-hydroxyethanamide hydrochloride.

reactant | 4-guanidinobutanamide hydrochloride | 2 mmoles, 360 mg | Cl.N(C(=N)N)CCCC(=O)N
reactant | N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride | 2.4 mmole, 701 mg | Cl.Cl.NCCCNCCCCNC(C(O)O)=O
reactant | glutaric acid | 2 mmoles, 264 mg | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | N-[4-(3-aminopropyl)aminobutyl]-2-(4-guanidinobutanamido)-2-hydroxyethanamide hydrochloride | Cl.NCCCNCCCCNC(C(O)NC(CCCNC(=N)N)=O)=O
solvent | water | 5 ml | O | H2O
solvent | water | 0.36 ml | O | H2O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(4-guanidinobutanamido)-2-hydroxyethanamide | 318 mg, 35% yield | NCCCNCCCCNC(C(O)NC(CCCNC(=N)N)=O)=O | C14H31N7O3
